### PR TITLE
[Merged by Bors] - refactor(Data/Nat/Choose/Central): move and rename `four_pow_le_two_mul_add_one_mul_central_binom`

### PR DESCRIPTION
**Pull request by mo271**
Move `four_pow_le_two_mul_add_one_mul_central_binom` from [`Mathlib.Data.Nat.Choose.Sum`](file:///usr/local/google/home/firsching/mathlib4/Mathlib/Data/Nat/Choose/Sum.lean) to [`Mathlib.Data.Nat.Choose.Central`](file:///usr/local/google/home/firsching/mathlib4/Mathlib/Data/Nat/Choose/Central.lean) and adjust it to fit the file's API:

* **Rename**: `four_pow_le_two_mul_add_one_mul_central_binom` → [`four_pow_le_two_mul_add_one_mul_centralBinom`](file:///usr/local/google/home/firsching/mathlib4/Mathlib/Data/Nat/Choose/Central.lean#L123-L128) (aligning with `centralBinom` casing convention).
* **Statement**: Stated using `centralBinom n` rather than `(2 * n).choose n`.
* **Proof**: Simplified by using [`four_pow_le_two_mul_self_mul_centralBinom`](file:///usr/local/google/home/firsching/mathlib4/Mathlib/Data/Nat/Choose/Central.lean#L110-L122) directly, avoiding an import dependency on `Choose.Sum`.
* **Deprecation**: Added a deprecation alias for the old name.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Sum.lean [hunk 1]
```diff
@@ -118,6 +118,9 @@ theorem choose_middle_le_pow (n : ℕ) : (2 * n + 1).choose n ≤ 4 ^ n := by
     single_le_sum (fun x _ ↦ by lia) (self_mem_range_succ n)
   simpa [sum_range_choose_halfway n] using t
 
+theorem two_mul_choose_self_le_pow (n : ℕ) : (2 * n).choose n ≤ 4 ^ n :=
```
Comment (SnirBroshi) [inline Mathlib/Data/Nat/Choose/Sum.lean]: This already exists: [`Nat.centralBinom_le_four_pow`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Choose/Central.html#Nat.centralBinom_le_four_pow)

File: Mathlib/Data/Nat/Choose/Sum.lean [hunk 2]
```diff
@@ -118,6 +118,9 @@ theorem choose_middle_le_pow (n : ℕ) : (2 * n + 1).choose n ≤ 4 ^ n := by
...
+  (choose_le_succ (2 * n) n).trans (choose_middle_le_pow n)
+
 theorem four_pow_le_two_mul_add_one_mul_central_binom (n : ℕ) :
     4 ^ n ≤ (2 * n + 1) * (2 * n).choose n :=
```
Comment (SnirBroshi) [inline Mathlib/Data/Nat/Choose/Sum.lean]: Since you're already here, could you move this to `Data/Nat/Choose/Central.lean` and fix the name and the statement?
```suggestion
theorem four_pow_le_two_mul_add_one_mul_centralBinom (n : ℕ) :
    4 ^ n ≤ (2 * n + 1) * n.centralBinom :=
```

Comment (mo271) [reply Mathlib/Data/Nat/Choose/Sum.lean]: done and done

File: Mathlib/Data/Nat/Choose/Sum.lean [hunk 3]
```diff
@@ -118,13 +118,6 @@ theorem choose_middle_le_pow (n : ℕ) : (2 * n + 1).choose n ≤ 4 ^ n := by
     single_le_sum (fun x _ ↦ by lia) (self_mem_range_succ n)
   simpa [sum_range_choose_halfway n] using t
 
-theorem four_pow_le_two_mul_add_one_mul_central_binom (n : ℕ) :
-    4 ^ n ≤ (2 * n + 1) * (2 * n).choose n :=
-  calc
-    4 ^ n = (1 + 1) ^ (2 * n) := by simp [pow_mul]
-    _ = ∑ m ∈ range (2 * n + 1), (2 * n).choose m := by simp [-Nat.reduceAdd, add_pow]
-    _ ≤ ∑ _ ∈ range (2 * n + 1), (2 * n).choose (2 * n / 2) := by gcongr; apply choose_le_middle
-    _ = (2 * n + 1) * choose (2 * n) n := by simp
```
Comment (joneugster) [inline Mathlib/Data/Nat/Choose/Sum.lean]:
```suggestion
```

accidental double newline

File: Mathlib/Data/Nat/Choose/Central.lean [hunk 4]
```diff
@@ -120,6 +120,19 @@ theorem four_pow_le_two_mul_self_mul_centralBinom :
...
 
+theorem four_pow_le_two_mul_add_one_mul_centralBinom (n : ℕ) :
+    4 ^ n ≤ (2 * n + 1) * centralBinom n := by
+  rcases n.eq_zero_or_pos with rfl | hn
+  · simp [centralBinom]
+  · refine (four_pow_le_two_mul_self_mul_centralBinom n hn).trans ?_
+    gcongr
+    exact le_add_right (2 * n) 1
+
+@[deprecated four_pow_le_two_mul_add_one_mul_centralBinom (since := "2026-08-11")]
```
Comment (joneugster) [inline Mathlib/Data/Nat/Choose/Central.lean]:
```suggestion
@[deprecated four_pow_le_two_mul_add_one_mul_centralBinom (since := "2026-09-13")]
```

**Review by joneugster — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
